US03960904
To a solution of 10 parts of 6-(diethylaminomethyl)cholest-5-en-3β-ol in 40 parts of pyridine at 0° is added, slowly and with stirring, 5 parts of propionyl chloride. When the addition is complete, stirring is continued for 2 hours while the reaction mixture warms to room temperature, whereupon 100 parts of water and 100 parts of aqueous 5% potassium bicarbonate are consecutively mixed in. The oil which separates is extracted with hexane. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation, affording 6-(diethylaminomethyl)-3β-(propionyloxy)cholest-5-ene as the residue.

reactant | 6-(diethylaminomethyl)cholest-5-en-3β-ol | C(C)N(CC)CC=1C[C@H]2[C@@H]3CC[C@H]([C@@H](CCCC(C)C)C)[C@]3(CC[C@@H]2[C@]2(CC[C@@H](CC12)O)C)C | C32H57NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | water | O | H2O
product | 6-(diethylaminomethyl)-3β-(propionyloxy)cholest-5-ene | C(C)N(CC)CC=1C[C@H]2[C@@H]3CC[C@H]([C@@H](CCCC(C)C)C)[C@]3(CC[C@@H]2[C@]2(CC[C@@H](CC12)OC(CC)=O)C)C | C35H61NO2
